Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / ACE Inhibitors / ___ Receptor 
Antagonist
 
Attending: ___.
 
Chief Complaint:
Acute hypoxic respiratory failure
 
Major Surgical or Invasive Procedure:
Intubation ___
 
History of Present Illness:
Ms. ___ is a ___ female with a PMHx of CKD V 
secondary to diabetic nephropathy, hypertension, and likely 
cardiorenal, systolic congestive heart failure, hx of ETOH abuse 
who presented on ___ for initiating of HD. Reason for MICU 
transfer is for acute hypoxic respiratory failure.

Overall the patient had been steadily declining over the past 
few months. According to her daughter she had been more nauseous 
and feeling unwell. Denied nausea or metallic taste. Also was 
developing worsening hyperkalemia so was admitted for HD 
initiation. She underwent tunneled R IJ placement today, which 
was uncomplicated. 

The patient had been feeling well after IJ placement. Started 
first session of dialysis for two  hours without any UF. Blood 
pressures were 160-170 during dialysis. Tolerated well. While 
waiting for a bed assignment she developed acute onset chest 
pressure, which she felt was similar to past asthma 
exacerbations. BP noted to be 220s/100s. She was given albuterol 
inhaler. Sats noted to be in the mid 80% on 50% nonrebreather. 
MICU was consulted for hypoxic respiratory failure and concern 
for acute pulmonary edema. She was given Lasix 80mg IV x 1 and 
hydralazine 10mg IV x 1. Anesthesia was called and she was 
intubated in the dialysis unit and transferred to the MICU for 
further evaluation.

On exam the patient was tachypneic, tripoding in acute 
respiratory distress. She was intubated, sedated with propofol 
and fentanyl. 

Vitals on arrival to the MICU were: 97.3 106 150/72 20 99% 
400x20 FIO2 100% PEEP 5.

On evaluation she was sedated and appeared comfortable. 

Of note, the patient's daughter reports that she has been 
hospitalized in the past at ___ for similar presentation. Was 
traveling from ___ in ___ and forgot to take 
hypertensive meds. Off the plane in hypertensive urgency and 
admitted to ___. On review of ___ records, concern for ___ 
sign on ECG. Underwent stress that was negative. Discharge 
weight of 211lbs. EF on TTE noted to be 35%.  
 
Past Medical History:
- CKD V initiated on HD on ___
- s/p R tunneled line placement ___
- Type II diabetes c/b retinopathy, nephropathy  
- Nephrolithiasis  
- Hypercholesterolemia  
- Hypertension  
- Gout  
- Systolic congestive heart failure (EF 34% ___
- Anemia of CKD, on Procrit  
- Left TKR in ___ 
- Asthma 
- Hx of ETOH abuse
- Iron deficiency
 
Social History:
___
Family History:
Per OMR: Two cousins were on HD. No other CKD to her knowledge. 
No history of renal transplant
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vitals: 97.3 106 150/72 20 99% 400x20 FIO2 100% PEEP 5.
GENERAL: Intubated, sedated 
HEENT: PERRL, Sclera anicteric, MMM, oropharynx clear
NECK: supple, JVP elevated to jawline
LUNGS: Diffuse rales anteriorly 
CV: tachycardic, grade II systolic murmur 
ABD: soft, non-tender, non-distended, bowel sounds present
GU: Foley in place
EXT: Warm, trace peripheral edema
SKIN: No appreciable lesions. R tunneled line in place without 
significant erythema
NEURO: PERRL, previously moving all four extremities with 
purpose prior to sedation
ACCESS: PIVs, R tunneled line

DISCHARGE PHYSICAL EXAM:
============================
Vitals: 98.4PO 153 / 89L  73 18 99 Ra    
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear
Neck: supple, JVP 2 cm above clavical at 30 degrees, no LAD.
Lungs: CTA anteriorly
CV: Regular rate and rhythm, normal S1 + S2, Harsh systolic 
ejection murmur in aortic listening area, 
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema
Neuro: AOx3
line -c/d/I

DISCHARGE WEIGHT - ***

 
Pertinent Results:
ADMISSION LABS
==============
___ 11:41AM BLOOD WBC-8.6 RBC-3.92 Hgb-8.8* Hct-29.4* 
MCV-75* MCH-22.4* MCHC-29.9* RDW-16.8* RDWSD-44.0 Plt ___
___ 05:17PM BLOOD Neuts-36.7 ___ Monos-8.9 Eos-2.1 
Baso-0.4 NRBC-1.3* Im ___ AbsNeut-4.90 AbsLymp-6.88* 
AbsMono-1.18* AbsEos-0.28 AbsBaso-0.05
___ 05:17PM BLOOD ___ PTT-36.6* ___
___ 11:41AM BLOOD Glucose-122* UreaN-65* Creat-3.7*# Na-139 
K-4.5 Cl-104 HCO3-22 AnGap-18
___ 05:17PM BLOOD ALT-19 AST-27 LD(LDH)-294* AlkPhos-44 
TotBili-0.2
___ 05:17PM BLOOD CK-MB-2 cTropnT-<0.01
___ 11:41AM BLOOD Calcium-8.8 Phos-4.7* Mg-2.3
___ 05:26PM BLOOD ___ pO2-268* pCO2-72* pH-7.16* 
calTCO2-27 Base XS--4
___ 05:26PM BLOOD Lactate-2.0

PERTINENT LABS
==============
___ 06:26PM BLOOD Type-ART Rates-20/ Tidal V-400 PEEP-5 
FiO2-60 pO2-168* pCO2-42 pH-7.37 calTCO2-25 Base XS-0 
As/Ctrl-ASSIST/CON
___ 04:39AM BLOOD Type-ART pO2-162* pCO2-22* pH-7.61* 
calTCO2-23 Base XS-2

DISCHARGE LABS
==============

IMAGING
=======
CXR ___:
Pulmonary edema

TTE ___:
The left atrium is normal in size. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. Overall left ventricular systolic function is severely 
depressed (LVEF= 20 %). Tissue Doppler imaging suggests an 
increased left ventricular filling pressure (PCWP>18mmHg). 
Doppler parameters are most consistent with Grade II (moderate) 
left ventricular diastolic dysfunction. Right ventricular 
chamber size and free wall motion are normal. The diameters of 
aorta at the sinus, ascending and arch levels are normal. The 
aortic valve leaflets (3) are mildly thickened. There is a 
minimally increased gradient consistent with minimal aortic 
valve stenosis. The mitral valve leaflets are mildly thickened. 
Trivial mitral regurgitation is seen. The left ventricular 
inflow pattern suggests impaired relaxation. The pulmonary 
artery systolic pressure could not be determined. There is no 
pericardial effusion. Compared with the prior study (images 
reviewed) of ___, the LVEF is further reduced.  

DISCHARGE LABS
===============

___ 06:45AM BLOOD WBC-6.6 RBC-3.86* Hgb-8.8* Hct-28.8* 
MCV-75* MCH-22.8* MCHC-30.6* RDW-17.9* RDWSD-45.7 Plt ___
___ 06:45AM BLOOD Glucose-90 UreaN-28* Creat-3.1* Na-128* 
K-4.1 Cl-92* HCO3-24 AnGap-16
___ 06:45AM BLOOD Calcium-8.8 Phos-4.8* Mg-1.___ female with a PMHx of CKD V on the basis of diabetic 
nephropathy, hypertension, with likely cardiorenal physiology, 
systolic heart failure presented for initiation of HD. In the 
setting of holding her blood pressure medications she developed 
hypertensive emergency, acute on chronic HFrEF and flash 
pulmonary edema resulting in hypoxemic respiratory failure 
requiring transfer to the MICU and intubation. She required a 
nitro gtt for BP and HD for ultrafiltration. She was also 
diuresed as she was still making urine. TTE was done which 
showed worsening systolic function ___ from 35%. She was 
extubated, started on her home BP meds, and tolerating HD well 
when she was transferred back to the floor. Her 
Anti-hypertendive medications were increased as below. She was 
discharged with scheduled visits at outpatient HD and follow up 
scheduled with her nephrologists. She had decreased platelets 
with nadir to 73 from 100s previously. Concern for HIT, so all 
heparin products were held and she was started on an argatroban 
gtt. PF4 assay was indeterminant and SRA was negative for HITT. 
Platelet count was uptrending at 104K at time of discharge. 

#) Acute pulmonary edema
   Acute hypoxic respiratory failure: Likely secondary to flash 
pulmonary edema in the setting of hypertensive emergency 
possibly ___ holding home anti-hypertensives prior to HD 
initiation. Pt's SBP's at home prior to admission were in high 
140's to 150's prior to admission on regimen of coreg, hydral, 
and imdur. Eventually found to have worsened systolic function 
on TTE 24% EF. Required intubation and aggressive diuresis and 
ultrafiltration via HD. She was continued on HD through ___, 
with volume removal and subsequent improvement in her 
respiratory function. She was extubated on ___. Hypertension was 
managed as below. TTE was obtained to evaluate for RWMA (see 
results above). 

#) Hypertensive emergency : Elevated BP to 220s/100s after 
dialysis in the setting of not taking home BP meds. Not on 
___ at baseline given hyperkalemia. On furosemide 20mg po 
daily, hydralazine 50mg po BID, Imdur 60mg po daily, carvedilol 
25mg po BID at home. These were gradually re-introduced after 
discontinuation of an Nitro drip, which was used initially for 
BP control. BP was still elevated on the floor despite 
resumption of home regimen as high as the 170's systolic without 
evidence of florid fluid overload. Her hydralazine was increased 
from 50 BID to TID. Started on Torsemide 40 mg in place of 
Lasix. Started on losartan 25 mg after much digging regarding 
her listed allergy as a cough without any substantiation from 
her or her records.

#) Acute on chronic systolic congestive heart failure: EF 24% on 
TTE from ___ ___. Has hx of possible ETOH cardiomyopathy and 
hx of flash pulmonary edema. TTE obtained as above. She was 
continued on her home Aspirin/Statin. Discharged on Losartan 25 
mg PO daily for blood pressure and mortality benefit in HFrEF.  

#) ESRD on HD: Initiated dialysis on ___ for uremic symptoms and 
hyperkalemia. HD line placed on AM of ___. Quant gold ___ 
negative, hepatitis ab's negative as an outpatient. Had 
persistent issue of hypertension during HD when her AM 
medications were held. Tolerated ultrafiltration well without 
hypotension. She was started on nephrocaps. Vein mapping was 
performed in preparation of future fistula. Patient will have 
Dialysis MWF at 245PM at ___.

#) Thrombocytopenia: Patient was worked up for HITT as plt's had 
down trended from low mid ___ prior to admission to a nadir of 
73 2/ Had low platelets with nadir to 73 on ___. Antibody assay 
and SRA sent, with initial concern based on indeterminate ab. 
Patient put on argatriban gtt and all heparin was discontinued. 
SRA returned negative on ___, gtt was stopped and heparin was 
restarted for prophylaxis. Plt's up trending to 104 at 
discharge. Suspect HIT type 1. 

#) Asthma:  Continued nebulizers and albuterol inhaler 

#) Anemia: Anemia of CKD, on Procrit as outpatient and iron. 
Iron stores most recently at goal. Started on EPO with HD (50 
units/kg 3x/week) -> 5,000 units qHD treatment. Restarted on EPO 
with HD ___. 

#) Metabolic Bone Disease. Ca at goal, phos has been elevated. 
PTH at goal for CKDV/ESRD. Vitamin D at goal.  
 
#) Nutrition - started nephrocaps daily, low Na/K/Phos diet.

#) Gout - Allopurinol, renally dosed

#) DMII - Diet controlled. Recent A1c 6.2% ___. Insulin 
sliding scale used while admitted.

#) Hx of ETOH use - no use for past ___ years, may be etiology 
for CM. 

MEDICATION CHANGES
------------------
- Hydralazine was increased from 50 mg BID to 50 mg TID
- Her Lasix was discontinued and she was started on torsemide 40 
mg
- Bicarb discontinued
- allopurinol dose adjusted to 100 mg daily
- started on 25 mg losartan PO daily
 [] consider titrating up as an outpatient

TRANSITIONAL ISSUES
[] monitor pt's blood pressure closely, if volume status is 
optimally managed with HD, anti-hypertensive regimen may need to 
be weaned down. 
[] recommend instructing pt to not hold antihypertensives prior 
to HD session as blood pressure uncontrolled when doing so, has 
not had hypotension at HD sessions
[] Vein mapping, quant gold, and hep serolgies all done. 
[] Will need outpatient TTE in 6 weeks to look for recovery of 
EF outside of hypertensive emergency.
[] Started on losartan, listed allergy of cough could not be 
verified by records or speaking with patient. Monitor for cough, 
if no cough and BP still elevated consider titrating up. (also 
since pt's EF < 35% ___ confers mortality benefit)
- HD will be MWF at 2:45 ___ at ___ Dialysis ___

# Communication/HCP: ___ (daughter/HCP) ___ 
# Code: Full, confirmed with HCP 

Discharge weight 83.5 kg.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Sodium Bicarbonate 650 mg PO BID 
2. Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY 
3. Furosemide 20 mg PO DAILY 
4. HydrALAZINE 50 mg PO BID 
5. Albuterol 0.083% Neb Soln 1 NEB IH PRN wheeze 
6. Sodium Polystyrene Sulfonate 15 gm PO BID 
7. Albuterol Inhaler 2 PUFF IH Q4-6H PRN wheeze 
8. Simvastatin 20 mg PO QPM 
9. Gabapentin 300 mg PO QHS 
10. Ketoconazole 2%  1 Appl TP BID 
11. Allopurinol ___ mg PO DAILY 
12. Carvedilol 25 mg PO BID 
13. Docusate Sodium 100 mg PO BID 
14. Aspirin 81 mg PO DAILY 
15. Lactulose 15 mL PO BID:PRN constipation 
16. budesonide-formoterol 160-4.5 mcg/actuation inhalation DAILY 

17. Ferrous Sulfate 325 mg PO BID 
18. Fluticasone Propionate NASAL ___ SPRY NU DAILY 
19. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID 
20. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1.  Losartan Potassium 25 mg PO DAILY 
RX *losartan 25 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Nephrocaps 1 CAP PO DAILY 
RX *B complex with C#20-folic acid [Nephrocaps] 1 mg 1 
capsule(s) by mouth daily Disp #*30 Capsule Refills:*3 
3.  Torsemide 40 mg PO DAILY 
RX *torsemide 20 mg 2 tablet(s) by mouth daily Disp #*60 Tablet 
Refills:*3 
4.  Allopurinol ___ mg PO DAILY 
RX *allopurinol ___ mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*3 
5.  HydrALAZINE 50 mg PO TID 
RX *hydralazine 50 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*3 
6.  Albuterol 0.083% Neb Soln 1 NEB IH PRN wheeze  
7.  Albuterol Inhaler 2 PUFF IH Q4-6H PRN wheeze  
8.  Aspirin 81 mg PO DAILY  
9.  budesonide-formoterol 160-4.5 mcg/actuation inhalation DAILY 
 
10.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -400 unit oral BID  
11.  Carvedilol 25 mg PO BID  
12.  Docusate Sodium 100 mg PO BID  
13.  Ferrous Sulfate 325 mg PO BID  
14.  Fluticasone Propionate NASAL ___ SPRY NU DAILY  
15.  Gabapentin 300 mg PO QHS  
16.  Isosorbide Mononitrate (Extended Release) 60 mg PO DAILY  
17.  Ketoconazole 2%  1 Appl TP BID  
18.  Lactulose 15 mL PO BID:PRN constipation  
19.  Multivitamins 1 TAB PO DAILY  
20.  Simvastatin 20 mg PO QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
Acute Hypoxemic respiratory failure

Secondary Diagnosis:
Pulmonary edema
Volume overload
Hypertensive emergency
ESRD
Acute on chronic non-ischemic HFrEF
thrombocytopenia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms ___,

You were admitted to ___ for the start of your 
hemodialysis for your kidney disease. Unfortunately, when you 
came in you became dangerously hypertensive. We believe your 
high blood pressure caused increased stress on your heart. Your 
heart function was found to be decreases, which is why you 
backed fluid into your lungs and had to be transferred to the 
intensive care and had a breathing tube placed. You required a 
drip of medication for you blood pressure and HD and medication 
to take fluid off to clear up you lungs. You improved rather 
quickly and your breating tube was able to be removed. While you 
were in the hospital, your home blood pressure medications were 
increased. The details of your medication changes are included 
in this packet. Please talk to your doctors should ___ have any 
questions.

When you go home, please weigh yourself every morning, call MD 
if weight goes up more than 6 lbs.

It was a pleasure taking care of you,
Your ___ Care team.
 
Followup Instructions:
___